US07157447B2
4-Fluoro-2-methylsulfanyl-benzylamine.
Under N2, 4-fluoro-2-(methylthio)benzonitrile (1.67 g, 0.1 mol) was dissolved in 20 mL tetrahydrofuran and treated with 10 mL 2M BH3.Me2S. This was heated at 60° C. for 2 hrs. Heating was discontinued and 5 mL MeOH was cautiously added, followed by the cautious addition of 4 mL 6N HCl. Additional H2O (20 mL) was added followed by ethyl acetate. The layers were separated. The aqueous layer was made basic with 1N NaOH and extracted with CH2Cl2. The extracts were dried (MgSO4), filtered, concentrated and dried in vacuo to give 1.3 g of the title compound as a solid (Yield=76%). 1H NMR (500 MHz, CDCl3) δ ppm: 7.20–7.31 (1H, m) 6.90 (1H, dd, J=2.4 Hz) 6.75–6.86 (1H, m) 3.86 (2H, s) 2.47 (3H, s); LC/MS m/z 172.

reactant | 4-fluoro-2-(methylthio)benzonitrile | 0.1 mol, 1.67 g | FC1=CC(=C(C#N)C=C1)SC | C8H6FNS
reactant | Me2S | S(C)C | C2H6S
reactant | MeOH | 5 mL | CO | CH4O
reactant | HCl | 6N, 4 mL | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | H2O | 20 mL | O | H2O
product | 4-Fluoro-2-methylsulfanyl-benzylamine | 1.3 g, Yield=76% | FC1=CC(=C(CN)C=C1)SC | C8H10FNS
